US07902223B2
A mixture of 5.00 g (23.1 mmol) of 2-bromo-5-nitrotoluene, 2.28 g (23.0 mmol) of 2-piperidone, 2.56 g (40 mmol) of finely powdered copper, 4.98 g (36.0 mmol) of potassium carbonate and 5.98 g (36 mmol) of potassium iodide is heated at 140° C. for 48 hours. The reaction mixture is introduced into water, the mixture is filtered, and the residue is washed with water. The residue is taken up in ethyl acetate and re-filtered. The filtrate is dried and evaporated, giving 1-(4-nitro-2-methylphenyl)piperidin-2-one as a yellowish solid; ESI 235.

reactant | 2-bromo-5-nitrotoluene | 23.1 mmol, 5.00 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | 2-piperidone | 23.0 mmol, 2.28 g | N1C(CCCC1)=O | C5H9NO
reactant | potassium carbonate | 36.0 mmol, 4.98 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 36 mmol, 5.98 g | [I-].[K+]
catalyst | copper | [Cu] | Cu
solvent | water | O | H2O
product | 1-(4-nitro-2-methylphenyl)piperidin-2-one | [N+](=O)([O-])C1=CC(=C(C=C1)N1C(CCCC1)=O)C | C12H14N2O3
